US03944571
As described in Example 1, ethyl 3-cyano-3-phenylpyruvate is reacted with p-methylthiophenylacetonitrile in an alcoholic solution of sodium ethoxide to give 2-(p-methylthiophenyl)-5-phenyl-3,4-dioxoadiponitrile. The latter is refluxed in a mixture of water, glacial acetic acid and concentrated sulfuric acid to give a mixture of 4- and 4'-methylthiopulvinic acid which is then refluxed in acetic anhydride to result in the formation of 4-methylthiopulvinic acid lactone.

reactant | ethyl 3-cyano-3-phenylpyruvate | C(#N)C(C(C(=O)OCC)=O)C1=CC=CC=C1 | C12H11NO3
reactant | p-methylthiophenylacetonitrile | CSC1=CC=C(C=C1)CC#N | C9H9NS
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 2-(p-methylthiophenyl)-5-phenyl-3,4-dioxoadiponitrile | CSC1=CC=C(C=C1)C(C#N)C(C(C(C#N)C1=CC=CC=C1)=O)=O | C19H14N2O2S
